US04801705
(E) (S)-3 -Amino-1-[[[[2-[[(3,4-dihydroxyphenyl)amino]carbonyl]hydrazino]sulfonyl]amino]carbonyl]-2-oxoazetidine
At 0° C., 1.02 g (2.0 mmol) of (S)-[1-[[[[2-[[(3,4-dihydroxyphenyl)amino]carbonyl]hydrazino]sulfonyl]amino]carbonyl]-2-oxo-3-azetidinyl]carbamic acid, phenylmethyl ester was added to a mixture of 3.31 ml of trifluoroacetic acid and 0.78 ml (6.63 mmol) of thioanisole. After stirring overnight at room temperature, the dark brown solution was dropped into 40 ml of dry ether (0° C.) and the precipitated material was collected by suction (1.15 g) and stirred with 10 ml of dry dichloromethane; yield: 0.92 g. This material was used in the next step without further purification.

reactant | (S)-[1-[[[[2-[[(3,4-dihydroxyphenyl)amino]carbonyl]hydrazino]sulfonyl]amino]carbonyl]-2-oxo-3-azetidinyl]carbamic acid, phenylmethyl ester | 2.0 mmol, 1.02 g | OC=1C=C(C=CC1O)NC(=O)NNS(=O)(=O)NC(=O)N1C([C@H](C1)NC(OCC1=CC=CC=C1)=O)=O | C19H20N6O9S
reactant | trifluoroacetic acid | 3.31 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | thioanisole | 6.63 mmol, 0.78 ml | C1(=CC=CC=C1)SC | C7H8S
solvent | ether | 40 ml | CCOCC | C4H10O
product | (S)-3 -Amino-1-[[[[2-[[(3,4-dihydroxyphenyl)amino]carbonyl]hydrazino]sulfonyl]amino]carbonyl]-2-oxoazetidine | N[C@@H]1C(N(C1)C(=O)NS(=O)(=O)NNC(=O)NC1=CC(=C(C=C1)O)O)=O | C11H14N6O7S
